US08183241B2
5-bromo-3-phenyl-1H-pyrazolo[3,4-b]pyridine x151 is synthesized according to the method described in example 20.1 using 3-phenyl-1H-pyrazol-5-amine x150 and bromomalonaldehyde x9.

reactant | 3-phenyl-1H-pyrazol-5-amine | C1(=CC=CC=C1)C1=NNC(=C1)N | C9H9N3
reactant | bromomalonaldehyde | BrC(C=O)C=O | C3H3BrO2
product | 5-bromo-3-phenyl-1H-pyrazolo[3,4-b]pyridine | Yield: 13% | BrC=1C=C2C(=NC1)NN=C2C2=CC=CC=C2 | C12H8BrN3
